US07223788B2
N-[4-(3-Dimethylaminopyrrolidin-1-yl)phenyl]terephthalamic acid
N-[4-(3-Dimethylaminopyrrolidin-1-yl)phenyl]terephthalamic acid methyl ester (1.7 g) dissolved in methanol (20 ml) was stirred with sodium hydroxide solution (2N, 15 ml) at room temperature for 24 hours. If conversion is incomplete, it is also possible to heat to reflux. The organic solvent was distilled off, and the mixture was acidified with hydrochloric acid. The precipitate which separated out was filtered off with suction and dried. This resulted in the product with the molecular weight of 353.42 (C20H23N3O3); MS (ESI): 354 (M+H+).

reactant | N-[4-(3-Dimethylaminopyrrolidin-1-yl)phenyl]terephthalamic acid methyl ester | 1.7 g | COC(C1=CC=C(C(=O)NC2=CC=C(C=C2)N2CC(CC2)N(C)C)C=C1)=O | C21H25N3O3
reactant | sodium hydroxide | 2N, 15 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | N-[4-(3-Dimethylaminopyrrolidin-1-yl)phenyl]terephthalamic acid | CN(C1CN(CC1)C1=CC=C(C=C1)NC(C1=CC=C(C(=O)O)C=C1)=O)C | C20H23N3O3
